US07320994B2
Trifluoro-methanesulfonic acid 2-(2-chloro-benzoyl)-pyridin-3-yl ester
Add diisopropylethylamine (0.09 mL, 0.52 mmol) to a 0° C. solution of (2-chloro-phenyl)-(3-hydroxy-pyridin-2-yl)-methanone (102 mg, 0.44 mmol) in CH2Cl2 (3 mL). Add triflic anhydride (0.09 mL, 0.52 mmol) dropwise and allow reaction to warm slowly to RT. Dilute with 20% i-PrOH/CHCl3, wash with 0.1N HCl (2×) and saturated NaHCO3 solution. Dry the combined organic layers over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-50% Et2O/hexanes to afford the title compound (149 mg, 93%) as yellow oil. MS(IS) 366 (M+1). TLC: Rf=0.30 (50% Et2O/hexanes).

reactant | diisopropylethylamine | 0.52 mmol, 0.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2-chloro-phenyl)-(3-hydroxy-pyridin-2-yl)-methanone | 0.44 mmol, 102 mg | ClC1=C(C=CC=C1)C(=O)C1=NC=CC=C1O | C12H8ClNO2
reactant | triflic anhydride | 0.52 mmol, 0.09 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | i-PrOH CHCl3 | CC(C)O.C(Cl)(Cl)Cl
product | Trifluoro-methanesulfonic acid 2-(2-chloro-benzoyl)-pyridin-3-yl ester | 149 mg, 93% | ClC1=C(C(=O)C2=NC=CC=C2OS(=O)(=O)C(F)(F)F)C=CC=C1 | C13H7ClF3NO4S
